US06124283
3-Methyl-4-morpholinobenzonitrile
To a solution of 4-bromo-3-methylbenzonitrile (11 g, 56 mmol) and potassium fluoride (3.3 g, 56 mmol) in anhydrous N,N-dimethylformamide (150 mL) was added morpholine (15 g, 170 mmol) and the reaction was heated at 145° C. for 4 days. The solvent was evaporated in to vacuo and the residue was partitioned between diethyl ether and water. The phases was separated and the organic phase was dried (Na2SO4), filtered and evaporated in vacuo. Purification on a silica gel column using toluene followed by chloroform as eluents gave 1.3 g (11% yield) of the title compound as white crystals: mp 85-86° C.; EIMS (70 eV) m/z (relative intensity) 202 (71, M+).

reactant | 4-bromo-3-methylbenzonitrile | 56 mmol, 11 g | BrC1=C(C=C(C#N)C=C1)C | C8H6BrN
reactant | potassium fluoride | 56 mmol, 3.3 g | [F-].[K+]
reactant | morpholine | 170 mmol, 15 g | N1CCOCC1 | C4H9NO
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | 3-Methyl-4-morpholinobenzonitrile | 1.3 g, 11% yield | CC=1C=C(C#N)C=CC1N1CCOCC1 | C12H14N2O
